US09102669B2
In a flask was placed ethyl 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)acetate (45 mg, 0.1 mmol) and MeOH (2 mL) was added. Then, 40 wt % CH3NH2(aq) (8 mL) was added. The resulting mixture was stirred at room temperature for 30 min and H2O (10 mL) was added. The solid was filtered and washed with H2O (5 mL×3), then dried to yield 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)-N-methylacetamide as a white solid.

reactant | ethyl 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)acetate | 0.1 mmol, 45 mg | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C1=CC=C(N=N1)C=1C=NN(C1)CC(=O)OCC | C24H27FN6O2
reactant | MeOH | 2 mL | CO | CH4O
reactant | CH3NH2 | 8 mL | CN | CH5N
solvent | H2O | 10 mL | O | H2O
product | 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)-N-methylacetamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C1=CC=C(N=N1)C=1C=NN(C1)CC(=O)NC | C23H26FN7O
